US09024018B2
8-(2,4′-Bithiazol-2′-yl)-3-(prop-2-ynyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (WW-028)
4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide (0.43 mmol) and 2-bromo-1-(1,3-thiazol-2-yl)ethanone (0.43 mmol) were stirred in MeCN (2 mL) overnight at room temperature. The reaction mixture containing a newly formed precipitate was then treated with sufficient triethylamine to solubilise before evaporating to dryness and purifying by column chromatography, eluting with 10% MeCN/DCM, to give the title compound. Yield 38%. δH (DMSO-d6) 9.00 (1H, s) 8.44 (1H, s), 7.97 (1H, d, J=3.2), 7.85 (1H, d, J=2.8), 5.16 (2H, d, J=2.4), 3.55 (1H, t, J=2.4).

reactant | 4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide | 0.43 mmol | O=C1N2C(N=NN1CC#C)=C(N=C2)C(N)=S | C8H6N6OS
reactant | 2-bromo-1-(1,3-thiazol-2-yl)ethanone | 0.43 mmol | BrCC(=O)C=1SC=CN1 | C5H4BrNOS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | MeCN | 2 mL | CC#N | C2H3N
product | 8-(2,4′-Bithiazol-2′-yl)-3-(prop-2-ynyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | Yield 38% | S1C(=NC=C1)C=1N=C(SC1)C=1N=CN2C1N=NN(C2=O)CC#C | C13H7N7OS2
